Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with history of morbid obesity, coronary artery disease, 
presenting today with cough productive of brown sputum and 
fevers up to 103.2 for last 2 days. Also endorses chills. 
Husband with similar symptoms 2d prior, now improving without 
antibiotics. Denies any chest pain but states that he she has 
been more short of breath.  
 
In the ED, initial VS: 101.3 97 168/58 18 93% ra. CXR showed b/l 
perihilar prominence but no evidence of CHF or pneumonia. CT A/P 
showed no acute abdominal process. Labs notable for WBC 7.2 with 
81%N, TroT <.01 x1, lactate 2, UA with trace leuks. Given 
clinical picture and fever, patient was treated for presumptive 
PNA with Levofloxacin 750mg IV. She was also given Ativan 2mg 
PO, Tylenol 2g, Zofran 4mg. SpO2 dropped to 91& with ambulation. 
Pt. initially wanted to leave, but was convinced to stay. VS at 
transfer: 100.3 98 18 127/71 95%ra.  
.  
Currently, she is tired but denies F/C/SOB.  
.  
ROS: As per HPI  

 
Past Medical History:
MYOCARDIAL INFARCT - INFEROPOSTERIOR  
HYPERCHOLESTEROLEMIA  
DM (diabetes mellitus), type 2, uncontrolled  
HYPERTENSION - ESSENTIAL, UNSPEC  
Anemia  
Thyroid nodule  
Asymptomatic carotid artery stenosis  
OBESITY - MORBID  
ESOPHAGEAL REFLUX  
HYPOTHYROIDISM, UNSPEC  
ANXIETY STATES, UNSPEC  
DERMATITIS - ECZEMATOUS  
HEADACHE  
COLONIC ADENOMA  
DISC DISEASE - LUMBAR  
Ovarian Retention Cyst  
.  

 
Social History:
___
Family History:
Non contributory 
 
Physical Exam:
Physical Exam on Admission:
VS - Temp 98.3F, BP 141/61, HR 101, R 20, O2-sat 93% RA  
GENERAL - morbidly obese female in NAD, comfortable, appropriate 
 
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MM slightly dry, 
OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - very distant breath sounds, scattered exp wheezes, no 
crackles, resp unlabored, no accessory muscle use  
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, obese, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3 
.
Physical Exam on Discharge:
VS - Tm 100.3 Tc 98.6 BP 137/46 HR  R 20 O2-sat 94% RA  
GENERAL - morbidly obese female in NAD, comfortable, appropriate 
 
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MM slightly dry, 
OP clear  
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - very distant breath sounds, few scattered exp wheezes, 
no crackles, resp unlabored, no accessory muscle use  
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, obese, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
NEURO - awake, A&Ox3  

 
Pertinent Results:
Labs on Admission:

___ 10:00PM   WBC-7.2 RBC-4.11* HGB-11.5* HCT-35.4* MCV-86 
MCH-27.8 MCHC-32.3 RDW-15.5
___ 10:00PM   NEUTS-81.1* LYMPHS-10.8* MONOS-6.9 EOS-0.8 
BASOS-0.4
___ 10:00PM   cTropnT-<0.01
___ 10:00PM   LIPASE-21
___ 10:00PM   ALT(SGPT)-54* AST(SGOT)-50* ALK PHOS-64 TOT 
BILI-0.4
___ 10:00PM   GLUCOSE-119* UREA N-14 CREAT-0.7 SODIUM-136 
POTASSIUM-3.9 CHLORIDE-98 TOTAL CO2-28 ANION GAP-14
___ 10:11PM   LACTATE-2.0
___ 10:47PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 10:47PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-TR
___ 10:47PM URINE  RBC-<1 WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 10:47PM URINE  MUCOUS-RARE

Imaging:

CXR ___:
IMPRESSION:  Mild perihilar prominence, suspected to represent 
mildly prominent pulmonary vessels without definite pneumonia.  
Streaky left basilar opacification seen only on the frontal view 
is probably due to minor atelectasis or scarring. 
.  
CT A/P ___: 
1.  No acute intra-abdominal pathology. There is diverticulosis 
and sequelae of prior inflammation, but no active 
diverticulitis. 
2.  3-mm nodule seen along the right major fissure and right 
lower lobe.  According to ___ guidelines, in the absence 
of risk factors, no further followup is needed.  If patient has 
risk factors such as smoking, followup chest CT at 12 months is 
recommended to document stability. 

CXR ___:
There are low lung volumes with an appearance of bronchovascular 
crowding.  Despite this, there is likely mild vascular 
congestion and edema.  No focal consolidation is seen with 
linear bibasilar atelectasis.  The heart is top normal in size 
with aortic totuosity.  
  
IMPRESSION:  Mild pulmonary edema  
.
Urine legionella-negative
.
Labs on Discharge:
.
___ 05:25AM BLOOD WBC-11.6* RBC-3.34* Hgb-9.3* Hct-28.5* 
MCV-86 MCH-27.9 MCHC-32.6 RDW-15.9* Plt ___
___ 05:25AM BLOOD ___ PTT-33.8 ___
___ 05:25AM BLOOD Glucose-106* UreaN-15 Creat-0.6 Na-134 
K-3.8 Cl-96 HCO3-28 AnGap-14
___ 06:15AM BLOOD ALT-68* AST-50* AlkPhos-66 TotBili-0.5
___ 05:25AM BLOOD Calcium-8.7 Phos-2.4* Mg-1.8
___ 10:47PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:47PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-TR
___ 10:47PM URINE RBC-<1 WBC-4 Bacteri-NONE Yeast-NONE 
Epi-___ with diabetes, morbid obesity, s/p MI, HTN who presents with 
2 days of fevers and cough productive of rust colored sputum 
with associated SOB.  
.  
# Fevers: Likely secondary to pneumonia, but possibly a viral 
illness. Most likely not bacterial process but no leukocytosis, 
just PMN predominance. Urine legionella neg. CXR underwhelming 
for pnuemonia but given poor PO intake and overall constellation 
of symptoms without other localizing source and neg CT, so 
patient was treated presumptively for CAP.  O2 sats stable on 
room air during the day, but at night de-satted.  On exam, lungs 
with improved wheezing since yesterday. With ambulation, O2 87, 
on ___, repeat cxr with pulm edema likely due to IV fluid bolus 
day prior. She was given lasix 40mg POx1.  On day of d/c, sats 
mid ___ on RA, down to 88% with prolonged ambulation.  Pt not 
subjectively SOB, likely this is baseline given pt's habitus.  
Treated with albuterol nebs and Levofloxacin 750mg PO daily.  On 
d/c, will complete 5 day course of levofloxacin.  
.  
# Hypotnatremia: Na 134 on am of discharge, improved from lowest 
of 129 .  Based on urine lytes/osm and serum osm, most likely 
SIADH secondary to pulmonary process.
.
# Diabetes: Stable.  Continued home Lantus 100U qhs and ISS.  
Held metformin in house.  Was on diabetic diet.  
.  
# HTN: Continued home lisinopril, metoprolol.  Held lasix 
initially in setting of dehydration initially.  Re-started on 
d/c.  
.  
# CAD: No CP now, ECG shows <1mm STD laterally, c/w prior. 
Continued home asa, metoprolol. Heart healthy diet. 
.  
# HL: Stable.  Continued home simvastatin pending med rec given 
80mg.  
.  
# Anxiety: Stable.  Continued home lorazepam, escitalopram.  
.  
# Anemia: Hct now at baseline 35.   
.  
# GERD: Stable.  Substituted omeprazole for home esomeprazole.
.
#incidental radiographic findings-pulmonary nodule. Will require 
follow up.  
.  
TRANSITIONS OF CARE:
- will complete day 5 of levofloxacin course on ___
- will have labs checked (particularly Na) and faxed to PCP ___ 
___
- will f/u with PCP next week
- 3mm lung nodule seen on CXR; can be followed as outpt
- CODE: Confirmed full  
- CONTACT: Husband ___ ___  

 
___ on Admission:
Humalog SSI  
Lasix 40mg daily  
Dicyclomine 10mg Q4-6H:PRN  
Levothyroxine 25mcg daily  
Escitalopram 20mg daily  
Metoprolol succinate 50mg daily  
Lantus 92 units QHS  
Vicodin 1 tab Q4-6H:PRN  
Lorazepam 2mg QHS:PRN  
Esomeprazole 40mg BID  
Lisinopril 20mg daily  
Simvastatin 80mg QHS  
Metformin 1000mg BID  
Ferrous sulfate 325mg TID  

 
Discharge Medications:
1. Escitalopram Oxalate 20 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
hold for sbp<100 
3. esomeprazole magnesium *NF* 40 mg Oral BID 
4. Ferrous Sulfate 325 mg PO TID 
5. DiCYCLOmine 10 mg PO QID:PRN pain 
6. Levothyroxine Sodium 25 mcg PO DAILY 
7. Metoprolol Succinate XL 50 mg PO DAILY 
8. Lorazepam 2 mg PO HS:PRN insomnia 
9. Glargine 100 Units Bedtime
Insulin SC Sliding Scale using HUM InsulinMax Dose Override 
Reason: home dosing

10. Levofloxacin 750 mg PO DAILY Start: In am 
last day is ___ 
RX *levofloxacin 750 mg once a day Disp #*1 Tablet Refills:*0
11. Hydrocodone-Acetaminophen (5mg-500mg 1 TAB PO Q6H:PRN pain 
hold for sedation, RR<10 
12. Simvastatin 80 mg PO DAILY 
13. MetFORMIN (Glucophage) 1000 mg PO BID 
14. Furosemide 40 mg PO DAILY 
15. Outpatient Lab Work
Please check chem7 and CBC on ___ and fax results to:
Name: ___ 
Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community Acquired Pneumonia
Diabetes Mellitus Type 2

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for a pneumonia.  You were 
started on antibiotics which you will need to continue for one 
more day (as listed below).  You were also a little bit 
dehydrated when you came in, so you received some IV fluids to 
help hydrate you. 

You sodium levels in your blood were a bit low.  This was most 
likely due to the infection in your lungs.  As we treated your 
pneumonia, your sodium levels improved.

The following changes were made to your medications: 
- Please START levofloxacin 750mg daily for 1 more day

If you begin to feel more short of breath or more sick, please 
don't hesitate to call your primary care physician.

Please follow up with your primary care doctor on discharge as 
scheduled below.

Please have your labs checked before your appointment with Dr. 
___ included below.

It was a pleasure taking care of you, we wish you all the best!
 
Followup Instructions:
___